US08604029B2
To an ice-cooled solution of 1-(4-nitro-phenyl)-piperidin-4-one (400 mg, 1.8 mmol) in acetic acid was added cis-2,6-dimethyl-morpholine (0.32 mL, 2.68 mmol) and sodium cyanoborohydride (220 mg, 3.50 mmol). The mixture was heated at reflux overnight then allowed to cool and concentrated to dryness under reduced pressure. The residue was partitioned between 5% sodium hydroxide solution and ethyl acetate. The organic phase was washed with water, brine, dried and concentrated to afford 2,6-dimethyl-4-[1-(4-nitrophenyl)-piperidin-4-yl]-morpholine (500 mg, 86%) as a yellow solid.

reactant | 1-(4-nitro-phenyl)-piperidin-4-one | 1.8 mmol, 400 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | cis-2,6-dimethyl-morpholine | 2.68 mmol, 0.32 mL | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | sodium cyanoborohydride | 3.50 mmol, 220 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,6-dimethyl-4-[1-(4-nitrophenyl)-piperidin-4-yl]-morpholine | 500 mg, 86% | CC1CN(CC(O1)C)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H25N3O3
